US04885307
Stage A: 1,5-dihydro-5-cyclohexyloxy-2H-pyrrol-2-one.
A mixture of 5 g of 1,5-dihydro-5-hydroxy-2H-pyrrol-2-one in 150 cm3 of cyclohexane with 2.5 g of Amberlite IR 120 H is heated to 90° C. for 3 hours. After filtering, evaporating the solvent under reduced pressure and chromatographing the residue on silica (eluent: ethyl acetate-n-hexane, 1--1), 4.98 g of the expected product is obtained. m.p. 65°-66° C.

reactant | 1,5-dihydro-5-hydroxy-2H-pyrrol-2-one | 5 g | OC1C=CC(N1)=O | C4H5NO2
reactant | cyclohexane | 150 cm3 | C1CCCCC1 | C6H12
product | 1,5-dihydro-5-cyclohexyloxy-2H-pyrrol-2-one | 4.98 g | C1(CCCCC1)OC1C=CC(N1)=O | C10H15NO2
